US09127016B2
Synthesis of (5-(2-Oxohexahydrothieno[3,4-d]imidazol-4-yl)-pentanoic acid (4-amino-cyclohexyl)amide) 19b
1,4-Diaminocyclohexane (37.6 mg, 0.33 mmol) was dissolved in dry DMF (3 mL) under nitrogen. Solution of NHS-Biotin (102.3 mg, 0.3 mmol) in dry DMF (3 mL) was added to stirred solution of diamine over a 15 min period. Reaction mixture was stirred for 16 h at ambient temperature. Dilution of reaction mixture with dry Et2O (50 mL) produced white precipitate. Precipitated 19b was filtered, washed with EtOAc (3×20 mL) for removing of NHS and dried in high vacuum.

reactant | 1,4-Diaminocyclohexane | 0.33 mmol, 37.6 mg | NC1CCC(CC1)N | C6H14N2
reactant | NHS-Biotin | 0.3 mmol, 102.3 mg | C1CC(=O)N(C1=O)OC(=O)CCCCC2C3C(CS2)NC(=O)N3 | C14H19N3O5S
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-(2-Oxohexahydrothieno[3,4-d]imidazol-4-yl)-pentanoic acid (4-amino-cyclohexyl)amide | NC1CCC(CC1)NC(CCCCC1SCC2NC(NC21)=O)=O | C16H28N4O2S
